US08013003B2
N-Methyl-N-tetrahydro-2H-pyran-4-yl-[2,1,3]-benzoxadiazole-5-carboxamide
Methylamine, generated by heating a mixture of methylamine hydrochloride (10 g) and sodium hydroxide pellets (18 g), was condensed (dry ice trap) into a solution of tetrahydro-4H-pyran-4-one (1.0 g, 10 mmol) in methanol (50 ml). 10% Pd on C (350 mg) was added and the mixture was hydrogenated at room temperature for 7 hours. The solids were filtered off and the filtrate concentrated under vacuum. The residue was dissolved in chloroform (70 ml) and triethylamine (2 ml) and a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (500 mg, 2.73 mmol) in chloroform (10 ml) was added slowly. After stirring the reaction mixture for 30 minutes, the organic phase was extracted with 100 ml of water and sulfuric acid (→pH 2) and the aqueous phase re-extracted with chloroform (100 ml), dried over magnesium sulfate, and concentrated under vacuum to give an oil. The crude product was purified by silica gel chromatography eluting ethyl acetate/hexane (75:25) and chloroform/acetone (85:15) to give the title product as a white solid after crystallization from ethyl acetate. Mp=160-2° C., LC-MS, MH+=262; 1H NMR (300 MHz, CDCl3, 2 rotamers) δ 7.93 (d, 1H, J=9.0 Hz); 7.84 (s, 1H); 7.42 (d, 1H, J=9.0 Hz); 4.90-4.70 and 4.20-3.10 (m+m, 5H); 2.927 (s, 3H); 2.1-1.5 ppm (m, 4H).

reactant | Methylamine | CN | CH5N
reactant | methylamine hydrochloride | 10 g | Cl.CN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dry ice | C(=O)=O | CO2
reactant | tetrahydro-4H-pyran-4-one | 10 mmol, 1.0 g | O1CCC(CC1)=O | C5H8O2
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 2.73 mmol, 500 mg | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | methanol | 50 ml | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd | [Pd] | Pd
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | N-Methyl-N-tetrahydro-2H-pyran-4-yl-[2,1,3]-benzoxadiazole-5-carboxamide | CN(C(=O)C1=CC=2C(=NON2)C=C1)C1CCOCC1 | C13H15N3O3
